US08895596B2
Step B 2-({[5-(biphenyl-4-yl)-6-chloro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropane carboxylic acid.
The title compound was prepared from ethyl 2-({[5-(biphenyl-4-yl)-6-chloro-1-(prop-2-en-1-yl)-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylate (115 mg, 0.236 mmol), 1,3-dimethylbarbituric acid (111 mg, 0.708 mmol), Pd(PPh3)4 (30 mg, 0.026 mmol) and EtOH (2.5 ml) according to the procedure described for Example 13, Step B. Purification of the resulting crude product by reverse phase HPLC eluting with 35-100% MeCN:water afforded the title compound as a white solid. LC-MS: calculated for C24H19ClN2O3 418.11, observed m/e: 418.97 (M+H)+ (Rt 2.12/4 min). 1H NMR (500 MHz, CD3OD): 7.75-7.35 (m, 11H), 4.50 (dd, 2H), 4.30 (dd, 2H) 1.85 (m, 1H), 1.70 (m, 1H), 1.10 (m, 11H), 1.05 (m, 1H).

reactant | ethyl 2-({[5-(biphenyl-4-yl)-6-chloro-1-(prop-2-en-1-yl)-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylate | 0.236 mmol, 115 mg | C1(=CC=C(C=C1)C1=CC2=C(N(C(=N2)OCC2C(C2)C(=O)OCC)CC=C)C=C1Cl)C1=CC=CC=C1 | C29H27ClN2O3
reactant | 1,3-dimethylbarbituric acid | 0.708 mmol, 111 mg | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
catalyst | Pd(PPh3)4 | 0.026 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 2.5 ml | CCO | C2H6O
product | 2-({[5-(biphenyl-4-yl)-6-chloro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropane carboxylic acid | C1(=CC=C(C=C1)C1=CC2=C(NC(=N2)OCC2C(C2)C(=O)O)C=C1Cl)C1=CC=CC=C1 | C24H19ClN2O3
